US04859662
9-(Cyclopentylmethyl)-1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one
Using the procedures described above for Intermediate 10, 1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one (500 mg) was treated with sodium hydride (73% dispersion in oil; 38 mg) and was then stirred with cyclopentanemethanol (p-toluenesulphonate) (292 mg) for 24 h. Work up and FCC was described above gave the title compound (283 mg), p.p. 177°-179°.

reactant | 1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one | 500 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1CCC=2NC3=CC=CC=C3C2C1=O | C36H31N3O
reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | cyclopentanemethanol (p-toluenesulphonate) | 292 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCCC1)C | C13H18O3S
product | 9-(Cyclopentylmethyl)-1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one | 283 mg | C1(CCCC1)CN1C2=CC=CC=C2C=2C(C(CCC12)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C42H41N3O
